US06028035
A solution of 2.10 g (0.0076 mol) of 2,4-dichloro-3-(1'-(methoxy)imino-1'-methoxymethyl)benzoic acid and 20.00 g of thionyl chloride in 50 ml of dry toluene was stirred for 2 hours at 80° C. After the solvent had been removed in vacuo, 2.25 g of 2,4-dichloro-3-(1'-methoxyimino-1'-(methoxy)methyl)benzoyl chloride were obtained.

reactant | 2,4-dichloro-3-(1'-(methoxy)imino-1'-methoxymethyl)benzoic acid | 0.0076 mol, 2.10 g | ClC1=C(C(=O)O)C=CC(=C1C(OC)=NOC)Cl | C10H9Cl2NO4
reactant | thionyl chloride | 20.00 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-dichloro-3-(1'-methoxyimino-1'-(methoxy)methyl)benzoyl chloride | 2.25 g | ClC1=C(C(=O)Cl)C=CC(=C1C(OC)=NOC)Cl | C10H8Cl3NO3
